US08729105B2
Preparation of 5-(3,4-difluorophenyl)-6-(2-methoxyethoxy)nicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-(2-methoxyethoxy)-3-pyridinecarboxylic acid (CAN 912454-34-3) and B-(3,4-difluorophenyl)-boronic acid, (CAN 168267-41-2) as starting materials; MS (ESI): 308.3 (M−H)−.

reactant | 5-bromo-6-(2-methoxyethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCCOC)C(=O)O | C9H10BrNO4
reactant | B-(3,4-difluorophenyl)-boronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 5-(3,4-difluorophenyl)-6-(2-methoxyethoxy)nicotinic acid | FC=1C=C(C=CC1F)C=1C(=NC=C(C(=O)O)C1)OCCOC | C15H13F2NO4
